US08466186B2
(e) N-{2,4-Dichloro-3-[5-chloro-1-methyl-6-(3-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclobutanecarboxamide
The title compound was prepared from TBTU (35 mg, 0.11 mmol), TEA (50 μL, 0.36 mmol), 1-trifluormethyl-cyclobutanecarboxylic acid (57 mg, 0.4 mmol) and 2,4-dichloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzimidazol-2-ylamino]benzylamine (45.3 mg, 0.1 mmol) in DMF (3 mL) analogy to example 1 step (i).

reactant | TBTU | 0.11 mmol, 35 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-trifluormethyl-cyclobutanecarboxylic acid | 0.4 mmol, 57 mg | FC(C1(CCC1)C(=O)O)(F)F | C6H7F3O2
reactant | 2,4-dichloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzimidazol-2-ylamino]benzylamine | 0.1 mmol, 45.3 mg | ClC1=C(CN)C=CC(=C1NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CC(CCC2)C(F)(F)F)Cl | C21H21Cl3F3N5
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{2,4-Dichloro-3-[5-chloro-1-methyl-6-(3-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclobutanecarboxamide | ClC1=C(CNC(=O)C2(CCC2)C(F)(F)F)C=CC(=C1NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CC(CCC2)C(F)(F)F)Cl | C27H26Cl3F6N5O
